US09303020B2
Preparation of 5-(6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-3-(1-(methylsulfonyl)-1H-imidazol-2-yl)benzofuran-5-yl)-2-methoxy-N-(1-(pyrimidin-2-yl)cyclopropyl)benzamide.
To a solution of 5-(6-(ethylamino)-2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)benzofuran-5-yl)-2-methoxy-N-(1-(pyrimidin-2-yl)cyclopropyl)benzamide (40 mg, 0.068 mmol) in pyridine (3.0 mL) at room temperature was added DMAP (16.60 mg, 0.136 mmol) followed by methanesulfonyl chloride (7.94 μl, 0.102 mmol). The reaction mixture was stirred at rt overnight, and then diluted with water. The mixture was extracted with EtOAc, and the organic extract washed with brine, dried over Na2SO4 and concentrated to obtain the title compound as an off white solid. Yield: 45 mg (89%). LCMS: (ES+) m/z=745.2 (M+H)+; Column—ACE Excel 2 C18 (50×3.0 mm-2 μm); M phase A: 2% MeCN-98% H2O-10 mM NH4COOH; M phase B: 98% MeCN-2% H2O-10 mM NH4COOH

reactant | 5-(6-(ethylamino)-2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)benzofuran-5-yl)-2-methoxy-N-(1-(pyrimidin-2-yl)cyclopropyl)benzamide | 0.068 mmol, 40 mg | C(C)NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=2NC=CN2)C=C1C=1C=CC(=C(C(=O)NC2(CC2)C2=NC=CC=N2)C1)OC | C34H29FN6O3
reactant | methanesulfonyl chloride | 0.102 mmol, 7.94 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 3.0 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.136 mmol, 16.60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 5-(6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-3-(1-(methylsulfonyl)-1H-imidazol-2-yl)benzofuran-5-yl)-2-methoxy-N-(1-(pyrimidin-2-yl)cyclopropyl)benzamide | C(C)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=2N(C=CN2)S(=O)(=O)C)C=C1C=1C=CC(=C(C(=O)NC2(CC2)C2=NC=CC=N2)C1)OC | C36H33FN6O7S2
